US06174901B1
Step B: Preparation of 2-((S)-2-amino-3-phenylpropylamino)-5-bromo-4-(4-pyridyl)pyridine:
Bromine (757 mg, 4.7 mmole) in CHCl3 (10 mL) was added in one portion to a stirring solution of 2-((S)-2-amino-3-phenylpropylamino)-4-(4-pyridyl)pyridine (1.44 g, 4.7 mmole) in CHCl3 (30 mL) at room temperature. After 1 hr, the mixture was partitioned between dichloromethane and aqueous sodium bicarbonate. The organic solvent was washed with brine, dried and evaporated. The residue was purified on a column of silica gel (CH2Cl2-MeOH-Conc. NH4OH=1000:110:8). MS (m/z): Calcd. C19H19N4Br (M+): 383, found: 383, 385.1. 1H-NMR (CDCl3, 400 MHz) δ: 8.62(d, 2H), 8.20(s, 1H), 7.30-7.10(m, 7H), 6.32(s, 1H), 5.78(bs, 1H), 3.70-3.30(m, 3H), 2.97(dd, 1H), 2.92(dd, 1H).

reactant | Bromine | 4.7 mmole, 757 mg | BrBr | Br2
reactant | 2-((S)-2-amino-3-phenylpropylamino)-4-(4-pyridyl)pyridine | 4.7 mmole, 1.44 g | N[C@H](CNC1=NC=CC(=C1)C1=CC=NC=C1)CC1=CC=CC=C1 | C19H20N4
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-((S)-2-amino-3-phenylpropylamino)-5-bromo-4-(4-pyridyl)pyridine | N[C@H](CNC1=NC=C(C(=C1)C1=CC=NC=C1)Br)CC1=CC=CC=C1 | C19H19BrN4
